US06448255B1
10-Hydroxy-2,2-dimethyl-10-phenyl-2,10-dihydroimidazo[1,2-b]isoquinolin-5(3H)-one
A mixture of 3-oxo-1-phenyl-1,3-dihydro-2-benzofuran-1-carboxamide (10 g), 2-methyl-1,2-diaminopropane (15 mL), and toluene (100 mL) was heated at reflux for 18 h in a flask equipped with a water separator. The mixture was cooled to ambient temperature and extracted with water. The organic phase was dried over anhydrous magnesium sulfate and evaporated to dryness. The residue was crystallized from ethanol to give the title compound (57.3 g), m.p. 186-188° C.

reactant | 3-oxo-1-phenyl-1,3-dihydro-2-benzofuran-1-carboxamide | 10 g | O=C1OC(C2=C1C=CC=C2)(C(=O)N)C2=CC=CC=C2 | C15H11NO3
reactant | 2-methyl-1,2-diaminopropane | 15 mL | CC(CN)(C)N | C4H12N2
reactant | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 10-Hydroxy-2,2-dimethyl-10-phenyl-2,10-dihydroimidazo[1,2-b]isoquinolin-5(3H)-one | 57.3 g | OC1(C=2N(C(C=3C=CC=CC13)=O)CC(N2)(C)C)C2=CC=CC=C2 | C19H18N2O2
